US08633288B2
In a three-necked 100-mL flask fitted with a stirrer, thermometer, and condenser were placed 18 grams (0.05 mole) of CF3OCF2CF2CF2OCF2C(O)OCH3, prepared in Example 1, Part A, and dry sarcosine (4.5 grams, 0.05 mole). The reaction mixture was heated under nitrogen at 60° C. using a heating mantle for 48 hours and then cooled to about 30° C. Isopropanol (23 grams) and potassium hydroxide (2.8 grams, 0.05 mole) were added to provide a solution of CF3OCF2CF2CF2OCF2C(O)N(CH3)CH2C(O)O—K+.

reactant | CF3OCF2CF2CF2OCF2C(O)OCH3 | 0.05 mole, 18 grams | C(F)(F)(F)OC(F)(F)C(F)(F)C(F)(F)OC(F)(F)C(=O)OC | C7H3F11O4
reactant | sarcosine | 0.05 mole, 4.5 grams | N(C)CC(=O)O | C3H7NO2
reactant | potassium hydroxide | 0.05 mole, 2.8 grams | [OH-].[K+]
solvent | Isopropanol | 23 grams | C(C)(C)O | C3H8O
product | CF3OCF2CF2CF2OCF2C(O)N(CH3)CH2C(O)O—K+ | C(F)(F)(F)OC(F)(F)C(F)(F)C(F)(F)OC(F)(F)C(=O)N(C)CC(=O)[O-].[K+] | InChI=1S/C9H6F11NO5.K/c1-21(2-3(22)23)4(24)5(10,11)25-7(14,15)6(12,13)8(16,17)26-9(18,19)20;/h2H2,1H3,(H,22,23);/q;+1/p-1
